US07977331B1
To a solution of ethyl 1-(2-benzyloxyethyl)-3-cyclohexyl-1H-pyrrolo[2,3-b]pyridine-6-carboxylate (888 mg, 2.18 mmol) in carbon tetrachloride (20 ml) was added N-bromosuccinimide (505 mg, 2.84 mmol), and the mixture was heated under reflux for 12 hr. The mixture was allowed to cool to room temperature, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel chromatography (hexane:ethyl acetate=6:1) to give ethyl 1-(2-benzyloxyethyl)-2-bromo-3-cyclohexyl-1H-pyrrolo[2,3-b]pyridine-6-carboxylate (592 mg, yield 56%).

reactant | ethyl 1-(2-benzyloxyethyl)-3-cyclohexyl-1H-pyrrolo[2,3-b]pyridine-6-carboxylate | 2.18 mmol, 888 mg | C(C1=CC=CC=C1)OCCN1C=C(C=2C1=NC(=CC2)C(=O)OCC)C2CCCCC2 | C25H30N2O3
reactant | N-bromosuccinimide | 2.84 mmol, 505 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | ethyl 1-(2-benzyloxyethyl)-2-bromo-3-cyclohexyl-1H-pyrrolo[2,3-b]pyridine-6-carboxylate | 592 mg, yield 56% | C(C1=CC=CC=C1)OCCN1C(=C(C=2C1=NC(=CC2)C(=O)OCC)C2CCCCC2)Br | C25H29BrN2O3
